US07282501B2
Step D: 3-{2-{[(2,5-Dichloro-thiophene-3-carbonyl)-methyl-amino]-methyl}-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid tert butyl ester
A solution of 3-{2-methylaminomethyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid tert-butyl ester (37 mg, 0.083 mmol) in CH2Cl2 (5 mL) was treated with triethylamine (0.035 mL, 0.25 mmol) then 2,5-dichloro-thiophene-3-carbonyl chloride (0.054 mL, 0.25 mmol) and stirred at ambient temperature overnight. The mixture was diluted with EtOAc (25 mL) and washed with brine (3×10 mL). The organic layer was dried (Na2SO4) and concentrated to the title compound (50 mg, 96%). MS (ES) m/z 629, 631 [M+1].

reactant | 3-{2-methylaminomethyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid tert-butyl ester | 0.083 mmol, 37 mg | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)CNC)=O | C27H34N2O4
reactant | triethylamine | 0.25 mmol, 0.035 mL | C(C)N(CC)CC | C6H15N
reactant | 2,5-dichloro-thiophene-3-carbonyl chloride | 0.25 mmol, 0.054 mL | ClC=1SC(=CC1C(=O)Cl)Cl | C5HCl3OS
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | 3-{2-{[(2,5-Dichloro-thiophene-3-carbonyl)-methyl-amino]-methyl}-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid tert butyl ester | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)CN(C)C(=O)C1=C(SC(=C1)Cl)Cl)=O | C32H34Cl2N2O5S
